US04067723
5-(2-Methylphenyl)-4-oxopentanoic acid (prepared as described above; 535 g.) was heated under reflux for 1 hour in methanol (5.5 liters) through which was passed gaseous hydrogen chloride. The flow of hydrogen chloride was then stopped and the solution was heated for a further 2 hours. The solution was then evaporated to give a dark coloured oil which was dissolved in diethyl ether (1500 ml.), washed with water and aqueous sodium bicarbonate solution, dried over sodium sulphate and distilled to give methyl 5-(2-methylphenyl)-4-oxopentanoate (248 g.), in the form of a clear yellow oil, b.p. 170°-200° C./0.7-1.0 mm.Hg.

reactant | 5-(2-Methylphenyl)-4-oxopentanoic acid | 535 g | CC1=C(C=CC=C1)CC(CCC(=O)O)=O | C12H14O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 5.5 liters | CO | CH4O
solvent | diethyl ether | 1500 ml | C(C)OCC | C4H10O
product | methyl 5-(2-methylphenyl)-4-oxopentanoate | 248 g | CC1=C(C=CC=C1)CC(CCC(=O)OC)=O | C13H16O3
